US07659297B2
(rac.)-5-{[4-(4-Chloro-3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}isoquinolin-1(2H)-one
560 mg of the mixture that consists of (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoic acid ethyl ester (since aldehyde constitutes two-thirds of the mixture, 560.2 mg of the mixture corresponds to 336.1 mg (0.981 mmol) of aldehyde) is heated for two hours to 120° C. with 157.1 mg (0.981 mmol) of 5-amino-isoquinolin-1(2H)-one and 0.557 mg (1.962 mmol) of titanium tetraisopropylate in 6 ml of o-xylene. After cooling, the batch is diluted with ethyl acetate and mixed with brine. The organic phase is separated and worked up as usual. After chromatography on a Flashmaster, 144.7 mg (30.4%) of the desired compound is obtained (relative to the proportion of aldehyde in the mixture).

reactant | (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | ClC1=C(C(=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC)F | C14H15ClF4O3
reactant | (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoic acid ethyl ester | C(C)OC(C(CC(C)(C)C1=C(C(=C(C=C1)Cl)F)OC)(O)C(F)(F)F)=O | C16H19ClF4O4
reactant | 5-amino-isoquinolin-1(2H)-one | 0.981 mmol, 157.1 mg | NC1=C2C=CNC(C2=CC=C1)=O | C9H8N2O
solvent | o-xylene | 6 ml | CC=1C=CC=CC1C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | titanium tetraisopropylate | 1.962 mmol, 0.557 mg | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | (rac.)-5-{[4-(4-Chloro-3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}isoquinolin-1(2H)-one | 144.7 mg, 30.4% | ClC1=C(C(=C(C=C1)C(CC(C=NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)OC)F | C23H21ClF4N2O3
